US09120794B2
N-(4-(3,4-dichlorophenyl)butan-2-yl)-1-ethyl-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxamide (racemate)
By appropriate application of method described in Example 180, 4-(3,4-dichlorophenyl)butan-2-amine (racemic) (50 mg, 0.23 mmol) and 1-ethyl-4-methoxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (85 mg, 0.46 mmol) were converted to Example 225 (racemate) (12 mg, 0.032 mmol, 15% yield for two steps).

reactant | 4-(3,4-dichlorophenyl)butan-2-amine | 0.23 mmol, 50 mg | ClC=1C=C(C=CC1Cl)CCC(C)N | C10H13Cl2N
reactant | 1-ethyl-4-methoxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid | 0.46 mmol, 85 mg | C(C)N1CC(=C(C1=O)OC)C(=O)O | C8H11NO4
product | N-(4-(3,4-dichlorophenyl)butan-2-yl)-1-ethyl-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxamide | 15% yield | ClC=1C=C(C=CC1Cl)CCC(C)NC(=O)C=1CN(C(C1O)=O)CC | C17H20Cl2N2O3
